US05834462
0.8 g (7.4 mmol) of p-toluidine and 1.5 g of 1-chloro-2,6-dinitrobenzene were dissolved in 15 ml of dimethyl sulfoxide and 1.5 g (14.8 mmol) of triethylamine was added thereto. After stirring at 80° to 90° C. for 12 hours, ethyl acetate was added and the reaction mixture was washed with water and dried over magnesium sulfate. After concentrating, the residue was purified by silica gel column chromatography. Thus 2.0 g of N-(4-methylphenyl)-2,6-dinitroaniline was obtained. This product was dissolved in a mixture of 20 ml of methanol with 40 ml of tetrahydrofuran and hydrogenated in the presence of palladium-carbon at room temperature under atmospheric pressure. After filtering off the catalyst, the solvent was distilled off under reduced pressure. Thus 1.6 g of the title compound was obtained.

reactant | p-toluidine | 7.4 mmol, 0.8 g | NC1=CC=C(C=C1)C | C7H9N
reactant | 1-chloro-2,6-dinitrobenzene | 1.5 g | ClC1=C(C=CC=C1[N+](=O)[O-])[N+](=O)[O-] | C6H3ClN2O4
reactant | triethylamine | 14.8 mmol, 1.5 g | C(C)N(CC)CC | C6H15N
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | dimethyl sulfoxide | 15 ml | CS(=O)C | C2H6OS
product | N-(4-methylphenyl)-2,6-dinitroaniline | 2.0 g | CC1=CC=C(C=C1)NC1=C(C=CC=C1[N+](=O)[O-])[N+](=O)[O-] | C13H11N3O4
